US08034814B2
1-(3-Bromo-4-ethyl-anilino)-4-[2-hydroxy-(pyridin-4-yl)-methyl]phthalazine
In analogy to Ex. 1, 500 mg (1.11 mMol) of 1-(3-bromo-4-ethyl-anilino)-4-[2-methoxy-(pyridin-4-yl)-methyl]-phthalazine in 12 ml of chloroform are reacted with 0.3 ml (2.2 mMol) Me3Sil to give the title compound: M.p. 251-252° C.; FAB-MS: (M+H)+=435/437; HPLC(Grad20-100) tRet=9.6.

reactant | 1-(3-bromo-4-ethyl-anilino)-4-[2-methoxy-(pyridin-4-yl)-methyl]-phthalazine | 1.11 mMol, 500 mg | BrC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC(=NC=C2)OC)C=CC1CC | C23H21BrN4O
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Bromo-4-ethyl-anilino)-4-[2-hydroxy-(pyridin-4-yl)-methyl]phthalazine | BrC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC(=NC=C2)O)C=CC1CC | C22H19BrN4O
